US06602825B1
3-(4-Chloro-6-fluoro-2-methoxy-3-nitrophenyl)-1,5-dimethyl-6-thioxo-[1,3,5]triazinane-2,4-dione
A solution of 3.0 g (15.0 mmol) of diphosgene in 5 ml of toluene was added dropwise at approximately 20° C. to a solution of 3.0 g (13.6 mmol) of 4-chloro-6-fluoro-2-methoxy-3-nitrophenylamine in 15 ml of toluene. Then, the mixture was slowly heated to reflux temperature and stirred for 6 hours under reflux. After the reaction mixture had been concentrated and dried, the crude isocyanate was redissolved in 5 ml of toluene to be used in the next reaction. 6 ml of triethylamine and a solution of 3.55 g (14.4 mmol) of dimethylthiourea were added dropwise to this solution at approximately 20° C. 4.7 g (28.8 mmol) of carbonyldiimidazole were subsequently added to the reaction mixture. The mixture was heated at 80° C. for 5 hours and then allowed to cool. For work-up, it was firstly washed four times with water. Then, the organic phase was dried over magnesium sulfate and concentrated under reduced pressure. The crude product (6.58 g) was purified by silica gel chromatography (mobile phase: cyclohexane/ethyl acetate=10:1). Yield: 1.31 g (24%);

reactant | diphosgene | 15.0 mmol, 3.0 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 4-chloro-6-fluoro-2-methoxy-3-nitrophenylamine | 13.6 mmol, 3.0 g | ClC1=C(C(=C(C(=C1)F)N)OC)[N+](=O)[O-] | C7H6ClFN2O3
reactant | dimethylthiourea | 14.4 mmol, 3.55 g | CNC(NC)=S | C3H8N2S
reactant | carbonyldiimidazole | 28.8 mmol, 4.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
product | 3-(4-Chloro-6-fluoro-2-methoxy-3-nitrophenyl)-1,5-dimethyl-6-thioxo-[1,3,5]triazinane-2,4-dione | ClC1=C(C(=C(C(=C1)F)N1C(N(C(N(C1=O)C)=S)C)=O)OC)[N+](=O)[O-] | C12H10ClFN4O5S
